### PR TITLE
[Merged by Bors] - chore: `IsBotZeroClass (Fin n)`

### PR DESCRIPTION
**Pull request by vihdzp**
We also deprecate a bunch of theorems that now follow from the typeclass.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fin/SuccPred.lean [hunk 1]
```diff
@@ -75,7 +75,6 @@ theorem succ_one_eq_two' [NeZero n] : Fin.succ (1 : Fin (n + 1)) = 2 := by
 The `Fin.le_zero_iff` in `Lean` only applies in `Fin (n+1)`.
 This one instead uses a `NeZero n` typeclass hypothesis.
 -/
-@[simp]
 theorem le_zero_iff' {n : ℕ} [NeZero n] {k : Fin n} : k ≤ 0 ↔ k = 0 :=
   ⟨fun h => Fin.ext <| by rw [Nat.eq_zero_of_le_zero h]; rfl, by rintro rfl; exact Nat.le_refl _⟩
```
Comment (plp127) [inline Mathlib/Data/Fin/SuccPred.lean:80]: Should this be deprecated for `_root_.le_zero_iff`

File: Archive/Imo/Imo2024Q5.lean [hunk 2]
```diff
@@ -189,7 +189,7 @@ lemma Path.exists_mem_fst_eq (p : Path N) (r : Fin (N + 2)) : ∃ c ∈ p.cells,
   refine ⟨p.cells[i], List.getElem_mem _, ?_⟩
   refine (hig.lt_or_eq.resolve_left fun h => ?_).symm
   rcases Nat.eq_zero_or_pos i with hi | hi
-  · simp only [hi, List.getElem_zero, p.head_first_row, Fin.not_lt_zero] at h
+  · simp [hi, List.getElem_zero, p.head_first_row] at h
```
Comment (Komyyy) [inline Archive/Imo/Imo2024Q5.lean]: Little golf:
```lean4
   rcases Nat.eq_zero_or_pos i with rfl | hi 
   · simp [List.getElem_zero, p.head_first_row] at h
```

File: Mathlib/AlgebraicTopology/SimplexCategory/Basic.lean [hunk 3]
```diff
@@ -244,7 +244,7 @@ theorem δ_comp_δ {n} {i j : Fin (n + 2)} (H : i ≤ j) :
 
 theorem δ_comp_δ' {n} {i : Fin (n + 2)} {j : Fin (n + 3)} (H : i.castSucc < j) :
     δ i ≫ δ j =
-      δ (j.pred fun (hj : j = 0) => by simp [hj, Fin.not_lt_zero] at H) ≫
+      δ (j.pred fun (hj : j = 0) => by simp [hj] at H) ≫
```
Comment (Komyyy) [inline Mathlib/AlgebraicTopology/SimplexCategory/Basic.lean]: Little golf:
```suggestion
      δ (j.pred H.ne_zero) ≫
```

File: Mathlib/AlgebraicTopology/SimplexCategory/Basic.lean [hunk 4]
```diff
@@ -351,7 +351,7 @@ theorem δ_comp_σ_of_gt {n} {i : Fin (n + 2)} {j : Fin (n + 1)} (H : j.castSucc
 @[reassoc]
 theorem δ_comp_σ_of_gt' {n} {i : Fin (n + 3)} {j : Fin (n + 2)} (H : j.succ < i) :
     δ i ≫ σ j = σ (j.castLT ((add_lt_add_iff_right 1).mp (lt_of_lt_of_le H i.is_le))) ≫
-      δ (i.pred fun (hi : i = 0) => by simp only [Fin.not_lt_zero, hi] at H) := by
+      δ (i.pred fun (hi : i = 0) => by simp [hi] at H) := by
```
Comment (Komyyy) [inline Mathlib/AlgebraicTopology/SimplexCategory/Basic.lean]: Same here:
```suggestion
      δ (i.pred H.ne_zero) := by
```

File: Mathlib/AlgebraicTopology/SimplicialObject/Basic.lean [hunk 5]
```diff
@@ -121,7 +121,7 @@ theorem δ_comp_δ {n} {i j : Fin (n + 2)} (H : i ≤ j) :
 theorem δ_comp_δ' {n} {i : Fin (n + 2)} {j : Fin (n + 3)} (H : Fin.castSucc i < j) :
     X.δ j ≫ X.δ i =
       X.δ (Fin.castSucc i) ≫
-        X.δ (j.pred fun (hj : j = 0) => by simp [hj, Fin.not_lt_zero] at H) := by
+        X.δ (j.pred fun (hj : j = 0) => by simp [hj] at H) := by
```
Comment (Komyyy) [inline Mathlib/AlgebraicTopology/SimplicialObject/Basic.lean]: Same here:
```suggestion
        X.δ (j.pred H.ne_zero) := by
```

File: Mathlib/AlgebraicTopology/SimplicialObject/Basic.lean [hunk 6]
```diff
@@ -185,7 +185,7 @@ theorem δ_comp_σ_of_gt {n} {i : Fin (n + 2)} {j : Fin (n + 1)} (H : Fin.castSu
 @[reassoc]
 theorem δ_comp_σ_of_gt' {n} {i : Fin (n + 3)} {j : Fin (n + 2)} (H : j.succ < i) :
     X.σ j ≫ X.δ i =
-      X.δ (i.pred fun (hi : i = 0) => by simp only [Fin.not_lt_zero, hi] at H) ≫
+      X.δ (i.pred fun (hi : i = 0) => by simp [hi] at H) ≫
```
Comment (Komyyy) [inline Mathlib/AlgebraicTopology/SimplicialObject/Basic.lean]: Same here:
```suggestion
      X.δ (i.pred H.ne_zero) ≫
```

File: Mathlib/AlgebraicTopology/SimplicialObject/Basic.lean [hunk 7]
```diff
@@ -586,7 +586,7 @@ theorem δ_comp_δ {n} {i j : Fin (n + 2)} (H : i ≤ j) :
 @[reassoc]
 theorem δ_comp_δ' {n} {i : Fin (n + 2)} {j : Fin (n + 3)} (H : Fin.castSucc i < j) :
     X.δ i ≫ X.δ j =
-      X.δ (j.pred fun (hj : j = 0) => by simp only [hj, Fin.not_lt_zero] at H) ≫
+      X.δ (j.pred fun (hj : j = 0) => by simp [hj] at H) ≫
```
Comment (Komyyy) [inline Mathlib/AlgebraicTopology/SimplicialObject/Basic.lean]: Same here:
```suggestion
      X.δ (j.pred H.ne_zero) ≫
```

File: Mathlib/AlgebraicTopology/SimplicialObject/Basic.lean [hunk 8]
```diff
@@ -654,7 +654,7 @@ theorem δ_comp_σ_of_gt' {n} {i : Fin (n + 3)} {j : Fin (n + 2)} (H : j.succ <
     X.δ i ≫ X.σ j =
       X.σ (j.castLT ((add_lt_add_iff_right 1).mp (lt_of_lt_of_le H i.is_le))) ≫
         X.δ (i.pred <|
-          fun (hi : i = 0) => by simp only [Fin.not_lt_zero, hi] at H) := by
+          fun (hi : i = 0) => by simp [hi] at H) := by
```
Comment (Komyyy) [inline Mathlib/AlgebraicTopology/SimplicialObject/Basic.lean]: Same here:
```lean4
         X.δ (i.pred H.ne_zero) := by
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Basic.lean [hunk 9]
```diff
@@ -200,7 +200,7 @@ lemma δ_comp_δ_apply {n} {i j : Fin (n + 2)} (H : i ≤ j) (x : S _⦋n + 2⦌
 
 lemma δ_comp_δ'_apply {n} {i : Fin (n + 2)} {j : Fin (n + 3)} (H : Fin.castSucc i < j)
     (x : S _⦋n + 2⦌) : S.δ i (S.δ j x) =
-      S.δ (j.pred fun (hj : j = 0) => by simp [hj, Fin.not_lt_zero] at H) (S.δ i.castSucc x) :=
+      S.δ (j.pred fun (hj : j = 0) => by simp [hj] at H) (S.δ i.castSucc x) :=
```
Comment (Komyyy) [inline Mathlib/AlgebraicTopology/SimplicialSet/Basic.lean]: Same here:
```suggestion
      S.δ (j.pred H.ne_zero) (S.δ i.castSucc x) :=
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Basic.lean [hunk 10]
```diff
@@ -239,7 +239,7 @@ lemma δ_comp_σ_of_gt_apply {n} {i : Fin (n + 2)} {j : Fin (n + 1)} (H : Fin.ca
 lemma δ_comp_σ_of_gt'_apply {n} {i : Fin (n + 3)} {j : Fin (n + 2)} (H : j.succ < i)
     (x : S _⦋n + 1⦌) : S.δ i (S.σ j x) =
       S.σ (j.castLT ((add_lt_add_iff_right 1).mp (lt_of_lt_of_le H i.is_le)))
-        (S.δ (i.pred fun (hi : i = 0) => by simp only [Fin.not_lt_zero, hi] at H) x) :=
+        (S.δ (i.pred fun (hi : i = 0) => by simp [hi] at H) x) :=
```
Comment (Komyyy) [inline Mathlib/AlgebraicTopology/SimplicialSet/Basic.lean]: Same here:
```suggestion
        (S.δ (i.pred H.ne_zero) x) :=
```

File: Mathlib/Logic/Equiv/Fin/Rotate.lean [hunk 11]
```diff
@@ -120,7 +120,7 @@ theorem finRotate_symm_lt_iff_ne_zero [NeZero n] (i : Fin n) :
     (finRotate _).symm i < i ↔ i ≠ 0 := by
   obtain ⟨n, rfl⟩ := exists_eq_succ_of_ne_zero (NeZero.ne n)
   refine ⟨fun hi hc ↦ ?_, fun hi ↦ ?_⟩
-  · simp only [hc, Fin.not_lt_zero] at hi
+  · simp [hc] at hi
   · rw [Fin.lt_def, coe_finRotate_symm_of_ne_zero hi]
     apply sub_lt (zero_lt_of_ne_zero <| Fin.val_ne_zero_iff.mpr hi) Nat.zero_lt_one
```
Comment (Komyyy) [inline Mathlib/Logic/Equiv/Fin/Rotate.lean]: Little golf:
```lean4
  refine ⟨ne_zero_of_lt, fun hi ↦ ?_⟩ 
  rw [Fin.lt_def, coe_finRotate_symm_of_ne_zero hi] 
  apply sub_lt (zero_lt_of_ne_zero <| Fin.val_ne_zero_iff.mpr hi) Nat.zero_lt_one
```

File: Mathlib/Order/Grade.lean [hunk 12]
```diff
@@ -312,7 +312,7 @@ abbrev GradeMinOrder.finToNat (n : ℕ) [GradeMinOrder (Fin n) α] : GradeMinOrd
   (GradeMinOrder.liftLeft (_ : Fin n → ℕ) Fin.val_strictMono fun _ _ => CovBy.coe_fin) fun a h => by
     cases n
     · exact a.elim0
-    rw [h.eq_bot, Fin.bot_eq_zero]
+    rw [h.eq_bot]
```
Comment (Komyyy) [inline Mathlib/Order/Grade.lean]: Reduce defeq abuse:
```suggestion
    rw [h.eq_bot, bot_eq_zero]
```

File: Mathlib/Order/Interval/Set/Basic.lean [hunk 13]
```diff
@@ -188,9 +188,13 @@ theorem nonempty_Ioc_subtype (h : a < b) : Nonempty (Ioc a b) :=
 theorem nonempty_Ioo_subtype [DenselyOrdered α] (h : a < b) : Nonempty (Ioo a b) :=
   Nonempty.to_subtype (nonempty_Ioo.mpr h)
 
+@[to_additive (attr := simp)]
+theorem Iio_one_eq_empty [One α] [IsBotOneClass α] : Set.Iio (1 : α) = ∅ := by
```
Comment (Komyyy) [inline Mathlib/Order/Interval/Set/Basic.lean:192]: If you have time, please also make `Set.Ioi_top` and `Set.Iio_bot` `simp` lemmas in another PR.

**Review by Komyyy — CHANGES_REQUESTED** [review]
Thank you for your contribution!

**Review by Komyyy — APPROVED** [review]
Thank you!

maintainer merge

File: Archive/Imo/Imo2024Q5.lean (hunk 2 above)
Comment (vihdzp) [reply Archive/Imo/Imo2024Q5.lean]: This doesn't work, since `i` isn't a variable but rather a `let` expression.

Comment (Komyyy) [reply Archive/Imo/Imo2024Q5.lean]: @vihdzp Sorry, `i` is a `let` declaration so cannot be substituted. I was wrong.

**Comment by Komyyy** [comment]
Let's see how the `large-import` change affects to the longest pole.
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/5094ef2999d1a7aaec727c2f942f3232561e577e?reference=c5360fdb56f34503bf845fb468ff6789246f0436) for 5094ef2999d1a7aaec727c2f942f3232561e577e against c5360fdb56f34503bf845fb468ff6789246f0436 are in. No significant results found. @Komyyy

- ✅ `build//instructions`: **-13.7G** (**-0.01%**)

**Small changes (1🟥)**

- 🟥 `build/module/Mathlib.Tactic.DeclarationNames//instructions`: **+98.9M** (**+4.77%**) (reduced significance based on absolute threshold)

**Comment by Komyyy** [comment]
```
build/lakeprof/longest build path // wall-clock 9m 28s +1s +0.3%
build/lakeprof/longest rebuild path	// wall-clock 9m 8s +3s +0.6%
```
This seems accetable.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
